US05220042
351 Milligrams (1.36 mM) of 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene was dissolved in a mixed solvent of 10 ml of tetrahydrofuran with 1 ml of hexamethylphosphoric triamide, and the solution was cooled to -78° C. in a dry ice-acetone bath. Then 1.60 ml (1.05M cyclohexane solution, 1.68 mM) of sec-butyllithium was added to the reaction mixture and stirred for 30 minutes. Next, a tetrahydrofuran solution containing 334 mg (1.11 mM) of 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]acetoaldehyde in 2 ml of tetrahydrofuran was added thereto and stirred for 8 hours. The reaction mixture was concentrated under a reduced pressure, and the residue obtained was purified by a silica gel column chromatography (diameter 2 cm×length 10 cm, eluent: 40% ethyl acetate-n-hexane) to yield 503 mg of 1,2-bis[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethanol. Colorless oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene | 1.36 mM | COC1=C(C=C(C(=C1)OCOC)OC)OCOC | C12H18O6
reactant | sec-butyllithium | 1.05M, 1.60 ml | C(C)(CC)[Li]
reactant | 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]acetoaldehyde | 1.11 mM, 334 mg | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CC=O | C14H20O7
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 1 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1,2-bis[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethanol | 503 mg | COC1=C(C(=C(C=C1OCOC)OC)OCOC)C(CC1=C(C(=CC(=C1OCOC)OC)OCOC)OC)O | C26H38O13
